US07399775B2
t-Butyl [[2-[[(4-chlorophenyl)sulfonyl]methyl]benzyl]oxy]diphenylsilane
In propanol (20 ml) was dissolved (2-bromo methylbenzyloxy)-t-butyldiphenylsilane (3.10 g, 7.05 mmol), followed by the addition of sodium 4-chlorobenzenesulfinate (1.80 g, 9.06 mmol). At 90° C., the resulting mixture was stirred for 14 hours. After the reaction mixture was allowed to cool down, the residue obtained by concentrating the reaction mixture under reduced pressure was added with ethyl acetate. The resulting mixture was washed with water, and the organic layer was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure, whereby the title compound (3.90 g, quant.) was obtained as a white solid.

reactant | (2-bromo methylbenzyloxy)-t-butyldiphenylsilane | 7.05 mmol, 3.10 g | BrCC1=C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C=CC=C1 | C24H27BrOSi
reactant | sodium 4-chlorobenzenesulfinate | 9.06 mmol, 1.80 g | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
solvent | propanol | 20 ml | C(CC)O | C3H8O
product | t-Butyl [[2-[[(4-chlorophenyl)sulfonyl]methyl]benzyl]oxy]diphenylsilane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCC1=C(C=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)Cl | C30H31ClO3SSi
